US06716863B2
(ii) 3-{1-[4-(4-hydroxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol
Using 3-{1-[4-(4-benzyloxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol (1.22 g) and 10% palladium carbon (0.18 g), the same reaction as Reference Example 11-(v) was carried out to yield the titled compound (0.918 g) as colorless crystals.

reactant | 3-{1-[4-(4-benzyloxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol | 1.22 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCCN1C(=NC=C1)CC(CO)O | C23H28N2O3
catalyst | palladium carbon | 0.18 g | [C].[Pd]
product | 3-{1-[4-(4-hydroxyphenyl)butyl]-1H-imidazol-2-yl}-1,2-propanediol | 0.918 g | OC1=CC=C(C=C1)CCCCN1C(=NC=C1)CC(CO)O | C16H22N2O3
